US03959362
Preparation of ammonium 3-mercaptopropanesulfonate (C3H11NO3S2)
A solution of 50.0 grams of thioacetamide and 81.5 grams of 1,3-propane sultone in 700 ml of methanol is refluxed at atmospheric pressure for 10 minutes. The reaction mixture is then concentrated by evaporation of solvent to 200 ml, and 600 ml of anhydrous diethyl ether is added. A white precipitate is formed, is collected by filtration and then is dissolved in 350 ml of ethanol. After drying and decolorizing with 4A molecular sieves* and charcoal, addition of anhydrous diethyl ether to the filtered solution, and refiltration, the yield is 59.7 g (50% of theoretical) of shiny white crystals of ammonium 3-mercaptopropanesulfonate having a melting point of 160°C. C3H11NO3S2Calculated % C, 20.8; H, 6.4; N, 8.1

reactant | thioacetamide | 50.0 grams | C(C)(=S)N | C2H5NS
reactant | 1,3-propane sultone | 81.5 grams | C1COS(=O)(=O)C1 | C3H6O3S
solvent | methanol | 700 ml | CO | CH4O
product | ammonium 3-mercaptopropanesulfonate | SCCCS(=O)(=O)[O-].[NH4+] | InChI=1S/C3H8O3S2.H3N/c4-8(5,6)3-1-2-7;/h7H,1-3H2,(H,4,5,6);1H3
